US06242602B1
To a 12 L Morton flask is charged 702 g 1,2-diaminobenzene and 2.1 Kg catechol (3 equivalents based on 1,2-diaminobenzene). Heat is applied by a heating mantle, and at the end of 30 minutes, all materials are melted and the temperature has risen to 90° C. Over the next 40 minutes, the temperature is increased to ca. 170° C. The temperature is maintained in the range of 151° C. to 187° C. over a 4½ day period. The reaction mixture is cooled to 80° C. and 8 L deionized water added over 30 minutes. The mixture is allowed to cool to room temperature overnight, and a filter candle used to remove water. A further 8 L water is added and heated to 70° C., cooled to 40° C., and the water again removed. A further wash with 8 L water is again performed, with the wash temperature lowered only to 60° C. during removal of water. The product is filtered on a filter funnel and air dried for 30 minutes to yield ca. 1200 g of moist 5,10-dihydrophenazine containing approximately 20% water. Yield of dry 5,10-dihydrophenazine is 960 g (68% of theory, based on 1,2-diaminobenzene).

reactant | 1,2-diaminobenzene | 702 g | NC1=C(C=CC=C1)N | C6H8N2
reactant | catechol | 2.1 Kg, 3 equivalents | C=1(O)C(O)=CC=CC1 | C6H6O2
solvent | water | O | H2O
product | 5,10-dihydrophenazine | ca. 1200 g, approximately 20% | C1=CC=CC=2NC3=CC=CC=C3NC12 | C12H10N2
